US09334464B2
Preparation of (E)-3,7-dimethyl-2,6-octadienyl 2-oxo-2-phenylacetate
A solution of ethyl 2-oxo-2-phenylacetate (17.6 g, 99 mmol), (E)-3,7-dimethyl-2,6-octadienol (18.5 g, 120 mmol) and NaOCH3 (30% in methanol, 1.5 ml) in cyclohexane (170 ml) was heated under reflux for 72 h. After cooling to room temperature the reaction mixture was taken up in ether, washed with water (pH≈7), dried (Na2SO4), filtered and concentrated. Column chromatography (SiO2, heptane/ether 8:2) afforded 14.5 g (52%) of a slightly yellow oil.

reactant | ethyl 2-oxo-2-phenylacetate | 99 mmol, 17.6 g | O=C(C(=O)OCC)C1=CC=CC=C1 | C10H10O3
reactant | (E)-3,7-dimethyl-2,6-octadienol | 120 mmol, 18.5 g | C\C(=C/CO)\CCC=C(C)C | C10H18O
reactant | NaOCH3 | 1.5 ml | O([Na])C
solvent | cyclohexane | 170 ml | C1CCCCC1 | C6H12
solvent | ether | CCOCC | C4H10O
product | (E)-3,7-dimethyl-2,6-octadienyl 2-oxo-2-phenylacetate | O=C(C(=O)OC\C=C(\CCC=C(C)C)/C)C1=CC=CC=C1 | C18H22O3
